US07691882B2
(4-(3-Fluoro-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride
To a methanol (10 mL) solution of 3-fluoro-2-(4-(2-nitro-ethyl)-benzyloxy)-pyridine (674 mg, 2.44 mmol) described in Manufacturing Example 149-1-3 was added lithium methoxide (185 mg, 4.87 mmol), which was stirred for 5 minutes at room temperature. The reaction mixture was concentrated under a reduced pressure. To a suspension of this residue in tetrahydrofuran (10 mL) and methylene chloride (10 mL) was added titanium (IV) tetrachloride (590 μL, 5.37 mmol) under nitrogen atmosphere at −78° C., which was stirred for 1 hour at 0° C. Water was added to the reaction mixture at 0° C., which was then extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and then filtered with neutral silica gel. The filtrate was concentrated under a reduced pressure to obtain the title compound (629 mg, 88%). This compound was used in the following reaction without any further purification.

reactant | methanol | 10 mL | CO | CH4O
reactant | 3-fluoro-2-(4-(2-nitro-ethyl)-benzyloxy)-pyridine | 2.44 mmol, 674 mg | FC=1C(=NC=CC1)OCC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H13FN2O3
reactant | lithium methoxide | 4.87 mmol, 185 mg | C[O-].[Li+]
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | titanium (IV) tetrachloride | 5.37 mmol, 590 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
product | (4-(3-Fluoro-pyridin-2-yloxymethyl)-phenyl)-acetohydroximoyl chloride | 629 mg, 88% | FC=1C(=NC=CC1)OCC1=CC=C(C=C1)CC(=NO)Cl | C14H12ClFN2O2
